US09388189B2
c) N1,N1-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,3-diamine
N,N-Dimethyl-3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (356 mg, 1.22 mmol) was dissolved in 50 ml of ethyl acetate. This mixture was hydrogenated in an H-Cube® apparatus using 10% palladium on carbon as catalyst at 2-3 bar. The solvent was evaporated to give 324 mg (99% yield) of the title compound as a white solid. Purity 100%.

reactant | N,N-Dimethyl-3-nitro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 1.22 mmol, 356 mg | CN(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)[N+](=O)[O-])C | C14H21BN2O4
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | N1,N1-Dimethyl-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)benzene-1,3-diamine | 324 mg, 99% yield | CN(C1=CC(=CC(=C1)B1OC(C(O1)(C)C)(C)C)N)C | C14H23BN2O2
